US06509361B1
Preparation of 2-Bezyloxy-4-[1-(3-methylphenyl)-3-methyl-1H-pyrazol-5-yl]pyridine
To a suspension of potassium hydroxide (0.67 g, 0.012 mol) and potassium carbonate (0.41 g, 0.003 mol) in 30 mL of toluene was added 2-chloro-4-[1-(3-methylphenyl)-3-methyl-1H-pyrazol-5-yl]pyridine (0.85 g, 0.003 mol). Then benzyl alcohol (0.49 g, 0.0045 mol) was charged into the reaction mixture, followed by the addition of tris[2-(2-methoxyethoxy)ethyl]amine (0.1 g, 0.0003 mol) and the mixture was heated at reflux overnight (about eighteen hours). Toluene was removed under vacuum and the residue was partitioned between water and ethyl acetate.

reactant | potassium hydroxide | 0.012 mol, 0.67 g | [OH-].[K+]
reactant | potassium carbonate | 0.003 mol, 0.41 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-4-[1-(3-methylphenyl)-3-methyl-1H-pyrazol-5-yl]pyridine | 0.003 mol, 0.85 g | ClC1=NC=CC(=C1)C1=CC(=NN1C1=CC(=CC=C1)C)C | C16H14ClN3
reactant | benzyl alcohol | 0.0045 mol, 0.49 g | C(C1=CC=CC=C1)O | C7H8O
reactant | tris[2-(2-methoxyethoxy)ethyl]amine | 0.0003 mol, 0.1 g | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Bezyloxy-4-[1-(3-methylphenyl)-3-methyl-1H-pyrazol-5-yl]pyridine | C(C1=CC=CC=C1)OC1=NC=CC(=C1)C1=CC(=NN1C1=CC(=CC=C1)C)C | C23H21N3O
